US07470716B2
3-(piperazin-1-yl)-4-(3-methyl-but-2-enyl)-5-(naphth-1-ylmethylaminocarbonyl)-4H-[1,2,4]triazole
A mixture of 0.10 g 5-(3-methyl-but-2-en-1-ylamino)-[1,3,4]oxadiazole-2-carboxylic acid-(naphth-1-ylmethyl)-amide and 1.28 g piperazine is stirred for 15 min at 200° C. in a microwave. After cooling to ambient temperature dichloromethane is added, the organic phase is washed with water, dried over sodium sulphate and the solvent is removed. The residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0->7:3).

reactant | 5-(3-methyl-but-2-en-1-ylamino)-[1,3,4]oxadiazole-2-carboxylic acid-(naphth-1-ylmethyl)-amide | 0.10 g | C1(=CC=CC2=CC=CC=C12)CNC(=O)C=1OC(=NN1)NCC=C(C)C | C19H20N4O2
reactant | piperazine | 1.28 g | N1CCNCC1 | C4H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(piperazin-1-yl)-4-(3-methyl-but-2-enyl)-5-(naphth-1-ylmethylaminocarbonyl)-4H-[1,2,4]triazole | N1(CCNCC1)C1=NN=C(N1CC=C(C)C)C(=O)NCC1=CC=CC2=CC=CC=C12 | C23H28N6O
